US08735399B2
To a vigorously stirred solution of pyridinium chlorochromate and celite in dichloromethane (20 mL) at room temperature was added a solution of 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanol in dichloromethane (10 mL). The mixture was stirred at room temperature for 3 hours then filtered through a plug of silica gel, eluted well with dichloromethane and concentrated in vacuo. Purification by chromatography on silica gel gave 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanone (313 mg, 64% yield) as white solid.

reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanol | BrC1=NC=CC=C1CC(O)C1=CC(=CC=C1)Cl | C13H11BrClNO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanone | 313 mg, 64% yield | BrC1=NC=CC=C1CC(=O)C1=CC(=CC=C1)Cl | C13H9BrClNO
